US09302989B2
4-(2-benzylthiazol-4-yl)aniline
2-Bromo-1-(4-nitrophenyl)ethanone (0.5 g, 2.049 mmol) and 2-phenylethanethioamide (0.310 g, 2.049 mmol) were combined in ethanol (10 ml) in a 20 mL microwave reaction vessel and heated at 140° C. for 15 minutes. The solution was transferred to a 250 mL round bottom flask where it immediately solidified. The material was diluted with an additional ethanol (10 ml) and was heated at reflux with stirring until the solids were dissolved. Water (5.0 ml, 278 mmol), and hydrochloric acid (1 ml, 12.00 mmol) were added. Iron (0.625 g, 11.19 mmol) was added and the mixture was heated at reflux for 2 hours. The mixture was allowed to cool and 5 mL NH4OH was added. The material was filtered through a pad of diatomaceous earth and the pad was washed with 50 mL of ethyl acetate. The filtrate was washed with 100 mL of water and the aqueous phase was extracted with an additional 50 mL of ethyl acetate. The combined organic fractions were dried over sodium sulfate, filtered, and the solvent was removed under reduced pressure. The material was re-dissolved in 50 mL of ethyl acetate and filtered through a ¼-inch pad of silica gel. The pad was washed with an additional 50 mL of ethyl acetate and the combined filtrate was concentrated to provide the title compound.

reactant | 2-Bromo-1-(4-nitrophenyl)ethanone | 2.049 mmol, 0.5 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 2-phenylethanethioamide | 2.049 mmol, 0.310 g | C1(=CC=CC=C1)CC(N)=S | C8H9NS
reactant | Water | 278 mmol, 5.0 ml | O | H2O
reactant | hydrochloric acid | 12.00 mmol, 1 ml | Cl | ClH
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Iron | 11.19 mmol, 0.625 g | [Fe] | Fe
product | 4-(2-benzylthiazol-4-yl)aniline | C(C1=CC=CC=C1)C=1SC=C(N1)C1=CC=C(N)C=C1 | C16H14N2S
